US07425555B2
Intermediate 7: 2-Chloromethyl-5-(4-iodophenyl)-[1,3,4]oxadiazole
5-(4-Iodophenyl)-1H-tetrazole (1.00 g, 3.68 mmol) and chloroacetic anhydride (3.77 g, 22.1 mmol) were heated at 95° C. for 3 hours. The crude product was purified on a 10 g silica SPE cartridge with 5:95 ethyl acetate:cyclohexane to 20:80 ethyl acetate:cyclohexane. The desired product crystallised spontaneously. The title compound was isolated as white crystals, which were filtered off and washed with cold cyclohexane (690 mg, 59%)

reactant | 5-(4-Iodophenyl)-1H-tetrazole | 3.68 mmol, 1.00 g | IC1=CC=C(C=C1)C1=NN=NN1 | C7H5IN4
reactant | chloroacetic anhydride | 22.1 mmol, 3.77 g | ClCC(=O)OC(CCl)=O | C4H4Cl2O3
product | 2-Chloromethyl-5-(4-iodophenyl)-[1,3,4]oxadiazole | ClCC=1OC(=NN1)C1=CC=C(C=C1)I | C9H6ClIN2O
